US05424293
d) (5-(R)-(4-Aminomethylphenyl)-2,4-dioxoimidazolidin-3-yl)-acetic acid hydrochloride
280 mg of N-(1-(R)-(4-benzyloxycarbonylaminomethylphenyl-1-methoxycarbonylmethyl),N'-ethoxycarbonylmethylurea are boiled under reflux for 45 min in 4 ml of 6N HCl and the mixture is then concentrated and dried over KOH.

reactant | 1-(R)-(4-benzyloxycarbonylaminomethylphenyl-1-methoxycarbonylmethyl),N'-ethoxycarbonylmethylurea | C(C1=CC=CC=C1)OC(=O)NCC1=CC=C(C=C1)[C@H](C(=O)OC)NC(=O)NCC(=O)OCC | C23H27N3O7
reactant | HCl | 6N, 4 ml | Cl | ClH
product | (5-(R)-(4-Aminomethylphenyl)-2,4-dioxoimidazolidin-3-yl)-acetic acid hydrochloride | Cl.NCC1=CC=C(C=C1)[C@@H]1C(N(C(N1)=O)CC(=O)O)=O | InChI=1S/C12H13N3O4.ClH/c13-5-7-1-3-8(4-2-7)10-11(18)15(6-9(16)17)12(19)14-10;/h1-4,10H,5-6,13H2,(H,14,19)(H,16,17);1H/t10-;/m1./s1
